US07786132B2
(i) 2-Chloro-4-(5-methylthiophen-2-yl)pyrimidine
A solution of 0.20 g (1.4 mmol) of 5-methyl-2-thiopheneboronic acid, 0.21 g (1.4 mmol) of 2,4-dichloropyrimidine and 49 mg (0.070 mmol) of bis(triphenylphosphine)palladium(II) chloride in 2 mL of a 2 M Na2CO3 aqueous solution and 5 mL of MeCN was heated in a microwave for 10 min at 160° C., then cooled to rt, diluted with CH2Cl2 and MeOH, and dried over MgSO4. The organic solvent was removed in vacuo, and the resulting solid was purified by flash chromatography eluting with a linear gradient of 50% EtOAc in hexane to neat EtOAc to deliver the title compound. MS (M+H)+ 211.

reactant | 5-methyl-2-thiopheneboronic acid | 1.4 mmol, 0.20 g | CC1=CC=C(S1)B(O)O | C5H7BO2S
reactant | 2,4-dichloropyrimidine | 1.4 mmol, 0.21 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | Na2CO3 | 2 M | C(=O)([O-])[O-].[Na+].[Na+]
reactant | MeCN | 5 mL | CC#N | C2H3N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.070 mmol, 49 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-Chloro-4-(5-methylthiophen-2-yl)pyrimidine | ClC1=NC=CC(=N1)C=1SC(=CC1)C | C9H7ClN2S
